US04362728
2,2,2-Trifluoroethylisothiocyanate (2.82 g.) was added to a solution of 2-amino-6-hydroxymethylpyridine (2.1 g.) in acetonitrile (20 ml.) and the solution kept at room temperature for 18 hours and then evaporated to dryness. The residue was partitioned between ethyl acetate and water and the ethyl acetate phase separated, dried and evaporated to dryness. The residue was recrystallised from ethanol to give 2-[3-(2,2,2-trifluoroethyl)thioureido]-6-[N-(2,2,2-trifluoroethyl)-thiocarbamoyloxymethyl]pyridine (0.8 g.), m.p. 173°-175°.

reactant | 2,2,2-Trifluoroethylisothiocyanate | 2.82 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | 2-amino-6-hydroxymethylpyridine | 2.1 g | NC1=NC(=CC=C1)CO | C6H8N2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[3-(2,2,2-trifluoroethyl)thioureido]-6-[N-(2,2,2-trifluoroethyl)-thiocarbamoyloxymethyl]pyridine | 0.8 g | FC(CNC(NC1=NC(=CC=C1)COC(NCC(F)(F)F)=S)=S)(F)F | C12H12F6N4OS2
